US07268152B2
Synthesis of 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(3-pyridin-3-ylbenzyl)pentan-2-ol
A mixture of 50 mg (0.11 mmol) of 2-(3-bromobenzyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol, 98 mg (0.60 mmol) of pyridine-3-boronic acid 1,3-propanediol cyclic ester, and 28 mg (0.02 mmol) of Pd[P(Ph)3]4 in 4 mL of toluene, 2 mL of EtOH, and 1 mL of 2 M aqueous sodium carbonate was warmed to reflux for 20 hours. The reaction mixture was then cooled and diluted with 5 mL of 12% aqueous ammonium hydroxide and extracted with three 5 mL portions of EtOAc. The combined organic layers were washed with three 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was chromatographed on silica gel using hexanes with a few drops of dichloromethane to load the sample and then eluted with EtOAc-hexanes (1:99, then 3:97, then 1:9) to afford 36 mg (72%) of a white solid. Recrystallization from ether/hexanes gave 28 mg of the title compound as a crystalline material, m.p. 148° C.-150° C.

reactant | 2-(3-bromobenzyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 0.11 mmol, 50 mg | BrC=1C=C(CC(C(F)(F)F)(CC(C)(C)C2=C(C=CC(=C2)F)OC)O)C=CC1 | C20H21BrF4O2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.60 mmol, 98 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | sodium carbonate | 2 M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | ammonium hydroxide | 5 mL | [OH-].[NH4+]
product | 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(3-pyridin-3-ylbenzyl)pentan-2-ol | 36 mg, 72% | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CC1=CC(=CC=C1)C=1C=NC=CC1)(F)F | C25H25F4NO2
